US07425638B2
1,1,1-trifluoro-2,3-epoxypropane (9 uL, 0.10 mmol) was added to a mixture of [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[piperazin-1-yl]-methanone (30 mg, 0.048 mmol) and triethylamine (20 uL, 0.144 mmol) in anhydrous methanol (1.0 mL). The reaction was stirred overnight. Evaporation of the solvent and chromatography of the residue over silica gel using 0-5% methanol in methylene chloride gave [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2-hydroxy-2-trifluoromethyethyl)-piperazin-1-yl]-methanone, which was dissolved in dilute hydrochloric acid (0.5 N, 1 mL) and lyophilized to give [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2-hydroxy-2-trifluoromethyethyl)-piperazin-1-yl]-methanone hydrochloride as an off-white powder (38 mg, 84%). LR-MS (APCI): 703.5 [(M+H)+].

reactant | 1,1,1-trifluoro-2,3-epoxypropane | 0.10 mmol, 9 uL | FC(C1CO1)(F)F | C3H3F3O
reactant | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[piperazin-1-yl]-methanone | 0.048 mmol, 30 mg | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)C(F)(F)F)OCC | C29H27Cl2F3N4O2
reactant | triethylamine | 0.144 mmol, 20 uL | C(C)N(CC)CC | C6H15N
solvent | methanol | 1.0 mL | CO | CH4O
product | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2-hydroxy-2-trifluoromethyethyl)-piperazin-1-yl]-methanone | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(C(F)(F)F)O)C1=C(C=C(C=C1)C(F)(F)F)OCC | C32H30Cl2F6N4O3
